US06410580B1
G. (2R)-[t-Butyloxycarbonyl(4′-chlorobiphenyl-4-sulfonyl)amino]-4-(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)butyric Acid t-Butyl Ester
To a solution of the title F compound, (2R)-[t-butyloxycarbonyl(4′-chlorobiphenyl-4-sulfonyl)amino]-4-iodobutyric acid t-butyl ester (0.6 g, 0.94 mmol) in 10 mL DMF is added 3,4,4-trimethyl-2,5-dioxoimidazolidine and potassium carbonate (0.65 g, 4.72 mmol) followed by 2 mg of 18-crown-6. The reaction mixture is stirred at room RT for 3 h, then partitioned between water and EtOAc. The organic solution is washed with brine, dried over anhydrous Na2SO4 and concentrated. Chomatography on silica gel (eluant; 1/19—EtOAc/hexane) affords the title compound as a white foam (0.25 g, 41%).

reactant | (2R)-[t-butyloxycarbonyl(4′-chlorobiphenyl-4-sulfonyl)amino]-4-iodobutyric acid t-butyl ester | 0.94 mmol, 0.6 g | C(C)(C)(C)OC([C@@H](CCI)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C)=O | C25H31ClINO6S
reactant | 3,4,4-trimethyl-2,5-dioxoimidazolidine | CN1C(NC(C1(C)C)=O)=O | C6H10N2O2
reactant | potassium carbonate | 4.72 mmol, 0.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | 18-crown-6 | 2 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | (2R)-[t-Butyloxycarbonyl(4′-chlorobiphenyl-4-sulfonyl)amino]-4-(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)butyric Acid t-Butyl Ester | 0.25 g, 41% | C(C)(C)(C)OC([C@@H](CCN1C(N(C(C1=O)(C)C)C)=O)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C)=O | C31H40ClN3O8S
